US07619086B2
Step 1: 2-(4-Fluorobenzyl)-8-hydroxy-6-methyl-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione-5-carboxylic acid
A solution of 5-(tert-butyloxycarbonyl)-2-(4-fluorobenzyl)-8-hydroxy-6-methyl-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione, Diastereomer 1 from Example 4, (0.015 g, 0.037 mmol) in 50% TFA in CH2Cl2 (2.4 mL) was stirred at room temperature. After 1.3 hours, TFA acid (0.5 mL) was added to the reaction mixture. After 48 hours, the reaction mixture was concentrated under vacuum to give the title compound. ES MS M+1=349.

reactant | 5-(tert-butyloxycarbonyl)-2-(4-fluorobenzyl)-8-hydroxy-6-methyl-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione | C(C)(C)(C)OC(=O)C1C2CCN(C(C2=C(C(N1C)=O)O)=O)CC1=CC=C(C=C1)F | C21H25FN2O5
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2.4 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(4-Fluorobenzyl)-8-hydroxy-6-methyl-2,3,4,4a,5,6-hexahydro-2,6-naphthyridine-1,7-dione-5-carboxylic acid | FC1=CC=C(CN2C(C3=C(C(N(C(C3CC2)C(=O)O)C)=O)O)=O)C=C1 | C17H17FN2O5
